US07354933B2
1.04 ml of triethylamine and then 0.659 g of pyridine-4-carbaldehyde are successively added to a solution of 0.945 g of methyl α-aminoisobutyrate hydrochloride in 28 ml of dichloroethane. The reaction mixture is stirred overnight at a temperature in the region of 20° C. The mixture is purified by filtration on Merck Lichroprep aminopropyl-grafted silica. The filtrate is concentrated under reduced pressure and the residue thus obtained is taken up in 25 ml of methanol, 0.372 g of sodium borohydride is added. The reaction mixture is stirred for 48 hours at a temperature in the region of 20° C. and then poured into a mixture of a normal solution of sodium hydroxide/ice. The mixture obtained is extracted three times with ethyl acetate. The organic phase is dried over magnesium sulfate and then concentrated under reduced pressure. 0.726 g of methyl 2-methyl-2-[(pyrid-4-ylmethyl)amino]propanoate is thus obtained in the form of an oil, the characteristics of which are as follows:

reactant | triethylamine | 1.04 ml | C(C)N(CC)CC | C6H15N
reactant | pyridine-4-carbaldehyde | 0.659 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | methyl α-aminoisobutyrate hydrochloride | 0.945 g | Cl.NC(C(=O)OC)(C)C
reactant | sodium borohydride | 0.372 g | [BH4-].[Na+]
solvent | dichloroethane | 28 ml | ClC(C)Cl | C2H4Cl2
solvent | methanol | 25 ml | CO | CH4O
product | methyl 2-methyl-2-[(pyrid-4-ylmethyl)amino]propanoate | 0.726 g | CC(C(=O)OC)(C)NCC1=CC=NC=C1 | C11H16N2O2
